US07751982B2
3-Iodo-4-methoxypyrazolo[3,4-d]pyrimidine-6-ylamine (14)
4-Methoxy-pyrazolo[3,4-d]pyrimidin-6-ylamine (6.75 g, 40.87 mmol) was suspended in an aqueous solution containing sodium acetate (6.0 g, 44.09 mmol) and iodine monochloride (9.12 g, 56.17 mmol) and stirred at 100° C. in a sealed reaction vessel for 24 h. The resulting mixture was cooled to room temperature and treated with a solution of sodium metabisulfite (3.6 g, 18.94 mmol) in 24 mL of water. The solid that formed was filtered, rinsed with water and dried: 6.93 g (58%) yield; TLC (10% methanol in ethyl acetate), Rf=0.57; 1H NMR (DMSO-d6) δ 13.08 (1H, br s, N−1 proton), 10.58 (1H, s, N−5 proton), 6.60 (2H, br s, 6-amino).

reactant | 4-Methoxy-pyrazolo[3,4-d]pyrimidin-6-ylamine | 40.87 mmol, 6.75 g | COC1=C2C(=NC(=N1)N)NN=C2 | C6H7N5O
reactant | sodium acetate | 44.09 mmol, 6.0 g | C(C)(=O)[O-].[Na+]
reactant | iodine monochloride | 56.17 mmol, 9.12 g | ICl | ClI
reactant | sodium metabisulfite | 18.94 mmol, 3.6 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 24 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 3-Iodo-4-methoxypyrazolo[3,4-d]pyrimidine-6-ylamine | IC1=NNC2=NC(=NC(=C21)OC)N | C6H6IN5O
